US07585885B2
5-Cyclopropanecarbonyl-N-methyl-N-propyl-isophthalamic acid
Stir the crude 5-cyclopropanecarbonyl-N-methyl-N-propyl-isophthalamic acid ethyl ester (0.38 mmol) in 1 N NaOH (1 mL) and ethanol (1 mL) for 3 h at room temperature. Dilute the mixture with water (5 mL) and wash the aqueous solution with diethyl ether (2×3 mL). Acidify with 1 N HCl (1 mL) and extract with ethyl acetate (3×5 mL). Wash the combined organic layer with saturated aqueous sodium chloride, dry (sodium sulfate) and concentrate to give the title compound as a crude residue which is used in the next step without further purification.

reactant | 5-cyclopropanecarbonyl-N-methyl-N-propyl-isophthalamic acid ethyl ester | 0.38 mmol | C(C)OC(C1=CC(C(=O)N(CCC)C)=CC(=C1)C(=O)C1CC1)=O | C18H23NO4
solvent | NaOH | 1 N, 1 mL | [OH-].[Na+]
solvent | ethanol | 1 mL | C(C)O | C2H6O
solvent | water | 5 mL | O | H2O
product | 5-Cyclopropanecarbonyl-N-methyl-N-propyl-isophthalamic acid | C1(CC1)C(=O)C=1C=C(C=C(C(=O)O)C1)C(=O)N(CCC)C | C16H19NO4
